US04957925
(b) 4-{4-[3-(Di-n-butylamino)propyloxy]phenylthio}pyridine dioxalate
A solution of 0.014 mol of 4-(4-hydroxy-phenylthio) pyridine and 3 g of finely crushed anhydrous potassium carbonate in 50 ml of dimethylsulphoxide was placed under stirring for 30 min. To this medium 0.016 mol of 1-chloro-3-(di-n-butylamino) propane was added and the stirring was maintained at room-temperature for 24 hours. The reaction medium was poured into water and extracted with ethyl ether. The organic phase was washed with water, dried on sodium sulphate and filtered. After the solvent was evaporated off, an oil was provided which was purified by chromatography on a silica column (eluent:methanol). The required compound in free base form so obtained was then transformed into an oxalate by adding an ethereal solution of oxalic acid.

reactant | 4-(4-hydroxy-phenylthio) pyridine | 0.014 mol | OC1=CC=C(C=C1)SC1=CC=NC=C1 | C11H9NOS
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | 1-chloro-3-(di-n-butylamino) propane | 0.016 mol | ClCCCN(CCCC)CCCC | C11H24ClN
reactant | water | O | H2O
solvent | dimethylsulphoxide | 50 ml | CS(=O)C | C2H6OS
product | 4-{4-[3-(Di-n-butylamino)propyloxy]phenylthio}pyridine dioxalate | C(C(=O)O)(=O)O.C(C(=O)O)(=O)O.C(CCC)N(CCCOC1=CC=C(C=C1)SC1=CC=NC=C1)CCCC | InChI=1S/C22H32N2OS.2C2H2O4/c1-3-5-16-24(17-6-4-2)18-7-19-25-20-8-10-21(11-9-20)26-22-12-14-23-15-13-22;2*3-1(4)2(5)6/h8-15H,3-7,16-19H2,1-2H3;2*(H,3,4)(H,5,6)
